US08466282B2
5-[(2,2-difluoroethoxy)methyl]-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-phenyl-1H-1,2,3-triazole-4-carboxamide
tert-Butyl (3S,5R)-3-[({5-[(2,2-difluoroethoxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl) (2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate (15.0 mg) was dissolved in 1M hydrogen chloride-ethyl acetate (3 ml), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was concentrated under reduced pressure, the residue was subjected to reversed-phase preparative HPLC and the eluted fraction was concentrated under reduced pressure. The residual aqueous layer was neutralized with 3.5M aqueous potassium carbonate solution and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give the object product (3.6 mg).

reactant | tert-Butyl (3S,5R)-3-[({5-[(2,2-difluoroethoxy)methyl]-1-phenyl-1H-1,2,3-triazol-4-yl}carbonyl) (2-methylpropyl)amino]-5-(morpholin-4-ylcarbonyl)piperidine-1-carboxylate | 15.0 mg | FC(COCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CN(C[C@@H](C1)C(=O)N1CCOCC1)C(=O)OC(C)(C)C)CC(C)C)F | C31H44F2N6O6
solvent | hydrogen chloride-ethyl acetate | 1M, 3 ml | C(C)(=O)OCC.Cl
product | 5-[(2,2-difluoroethoxy)methyl]-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1-phenyl-1H-1,2,3-triazole-4-carboxamide | 3.6 mg | FC(COCC1=C(N=NN1C1=CC=CC=C1)C(=O)N([C@@H]1CNC[C@@H](C1)C(=O)N1CCOCC1)CC(C)C)F | C26H36F2N6O4
